US08193178B2
To a solution of 2-chloro-4-(4-methyl-piperazin-1-yl)-thieno[3,2-d]pyrimidine (0.11 g, 0.4 mmol) in pyridine (0.34 mL) in a microwave vial was added 4-methoxybenzylamine (0.55 mL, 4.2 mmol). The reaction mixture was heated to 200° C. in the microwave for 1 h, after which pyridine was removed under reduced pressure. The resultant residue was purified by FCC (2 M NH3 in MeOH/CH2Cl2) to yield (4-methoxy-benzyl)-[4-(4-methyl-piperazin-1-yl)-thieno[3,2-d]pyrimidin-2-yl]-amine. The intermediate was then dissolved in trifluroacetic acid (2.5 mL) and heated at 60° C. for 1.5 h. After concentrating, the residue was purified by reverse-phase chromatography (acidic conditions) to afford the desired product as a TFA salt (30 mg). MS: 250.1. 1H NMR (400 MHz, CD3OD) δ ppm 8.26 (d, J=5.6 Hz, 1H), 7.30 (d, J=5.6 Hz, 1H), 4.65-4.12 (m, 4H), 3.60-3.41 (m, 4H), 2.98 (s, 3H).

reactant | 2-chloro-4-(4-methyl-piperazin-1-yl)-thieno[3,2-d]pyrimidine | 0.4 mmol, 0.11 g | ClC=1N=C(C2=C(N1)C=CS2)N2CCN(CC2)C | C11H13ClN4S
reactant | 4-methoxybenzylamine | 4.2 mmol, 0.55 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | pyridine | 0.34 mL | N1=CC=CC=C1 | C5H5N
product | (4-methoxy-benzyl)-[4-(4-methyl-piperazin-1-yl)-thieno[3,2-d]pyrimidin-2-yl]-amine | COC1=CC=C(CNC=2N=C(C3=C(N2)C=CS3)N3CCN(CC3)C)C=C1 | C19H23N5OS
